US08633212B2
To a stirred suspension of LAH (1.77 g, 46.6 mmol) in THF (40 mL) under N2 was cooled to 0° C. and was added dimethyl 3-methoxypentanedioate (3.7 g, 19.5 mmol). The mixture was stirred overnight. Aqueous NaOH (1 N, 12 mL) was added at 0° C. The mixture was filtered and the cake was washed with EtOAc 3 times. The filtrate was dried and concentrated to give 3-methoxypentane-1,5-diol (1 g, 38%). 1H-NMR (CDCl3): 1.75 (m, 4H), 2.62 (s, 2H), 3.37 (m, 3H), 3.6 (m, 2H), 3.7 (m, 4H).

reactant | LAH | 46.6 mmol, 1.77 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | dimethyl 3-methoxypentanedioate | 19.5 mmol, 3.7 g | COC(CC(=O)OC)CC(=O)OC | C8H14O5
reactant | NaOH | 1 N, 12 mL | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-methoxypentane-1,5-diol | 1 g, 38% | COC(CCO)CCO | C6H14O3
